US07842688B2
d) tert-Butyl 3-allyloxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 9.53 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 3.42 ml of allylbromide are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.31 (1:2 EtOAc-heptane); Rt=6.03.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 9.53 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | allylbromide | 3.42 ml | C(C=C)Br | C3H5Br
product | tert-Butyl 3-allyloxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C=C)OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C30H41NO6
